US05109003
7-Allyl-1-(5-hydroxy-5-methylhexyl)-3-methylxanthine (Compound 20)
This compound was obtained by reacting 7-Allyl-3-methylxanthine with 1-chloro-5-hydroxy-5-methylhexane in an analogous manner to Example 1.

reactant | 7-Allyl-3-methylxanthine | C(C=C)N1C=NC=2N(C(NC(C12)=O)=O)C | C9H10N4O2
reactant | 1-chloro-5-hydroxy-5-methylhexane | ClCCCCC(C)(C)O | C7H15ClO
product | 7-Allyl-1-(5-hydroxy-5-methylhexyl)-3-methylxanthine | C(C=C)N1C=NC=2N(C(N(C(C12)=O)CCCCC(C)(C)O)=O)C | C16H24N4O3
